US09169259B2
In a 250 mL round bottom flask was placed methyl 4-(6-aminopyridazin-3-yl)benzoate (2.8 g, 12.2 mmol), NaHCO3 (2.05 g, 22.4 mmol) and methanol (100 mL) and to this suspension was added Br2 (1.95 g, 12.2 mmol) drop wise over about 30 minutes at room temperature. The mixture was stirred for 16 h, then filtered and concentrated in vacuo. The residue was purified by chromatography (silica gel, 200-300 mesh, petroleum ether:ethyl acetate=2:1) to give methyl 4-(6-amino-5-bromopyridazin-3-yl)benzoate (1.64 g, 43.6%) as a light orange solid. LC-MS: [M+H]+, 309.9, tR=1.397 min.

reactant | methyl 4-(6-aminopyridazin-3-yl)benzoate | 12.2 mmol, 2.8 g | NC1=CC=C(N=N1)C1=CC=C(C(=O)OC)C=C1 | C12H11N3O2
reactant | NaHCO3 | 22.4 mmol, 2.05 g | C(=O)(O)[O-].[Na+]
reactant | Br2 | 12.2 mmol, 1.95 g | BrBr | Br2
solvent | methanol | 100 mL | CO | CH4O
product | methyl 4-(6-amino-5-bromopyridazin-3-yl)benzoate | 1.64 g, 43.6% | NC1=C(C=C(N=N1)C1=CC=C(C(=O)OC)C=C1)Br | C12H10BrN3O2
